US08440662B2
Step 1: N,N-dimethyl-4-nitro benzamide
To a solution of 4-nitro-benzoic acid (20 g, 0.1196 mol) in DMF (300 mL) N,N-dimethylamine hydrochloride (11.7 g, 0.1436 mol), HOBt (20.9 g, 0.1554 mol), EDC.HCl (34.3 g, 0.1794 mol) and DIPEA (30.91 g, 0.2392 mol) were added. The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate (3×500 mL). The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure to afford the title compound [23.0 g, 99%]; LC-MS (ESI): Calculated mass: 194.1; Observed mass: 195.1 [M+H]+ (RT: 1.70 min).

reactant | 4-nitro-benzoic acid | 0.1196 mol, 20 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | DMF | 0.1436 mol, 300 mL, 11.7 g | CN(C)C=O | C3H7NO
reactant | HOBt | 0.1554 mol, 20.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.1794 mol, 34.3 g | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.2392 mol, 30.91 g | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
product | N,N-dimethyl-4-nitro benzamide | 23.0 g, 99% | CN(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C9H10N2O3
